Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Erythromycin Base / Codeine / Ultram / Oxycodone / 
Lipitor / Vicodin / Combivent / Latex / simvastatin
 
Attending: ___.
 
Chief Complaint:
SOB, cough
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with history of COPD on home O2 at night, Pulmicort, 
albuterol, history of fibromyalgia, hypertension, presenting 
with two-day history of worsening shortness of breath and 
wheezing. Symptoms started on ___ evening. Slight cough. No 
fevers or chills. Does describe some body aches. No nausea or 
vomiting or diarrhea. Went to ___'s office today where an x-ray 
of the chest performed and showed no evidence of pneumonia. 
Given her wheezing, just into the emergency department for 
nebulizer treatments and steroid initiation.
  
In the ED, initial vital signs were 96.3 66 151/77 100% 2L NC. 
Labs were notable for K of 3.1. Otherwise, no leukocytosis. CXR 
was negative for pneumonia. Patient was given 60mg prednisone 
and 750mg levofloxacin in addition to albuterol nebs. She was 
also given 60 meq of potassium chloride. After several neb 
treatments she was still notably tachypneic and wheezing. She 
was admitted to the medicine service for management of COPD 
exacerbation.
 
On the floor, pt complains of 3 days of increased SOB and 
wheezing with feeling of body aches and sore throat. She has a 
___ year old grandson who she takes care of and thinks she may 
have caught a cold from him. Denies increased sputum production. 
Cough is increased but nonproductive. No fevers or chills.
 
Past Medical History:
-COPD
- Depression  
- Chronic pain syndrome/fibromyalgia  
- Low back pain  
- s/p tibial plateau fracture  
- Hypertension  
- Hypokalemia  
- GERD  
- Tobacco abuse  
- Hyperlipidemia  
 
Social History:
___
Family History:
Mother died of emphysema, colon cancer. Father died in his ___ 
of heart problems (bypass, valve). Sister with pancreatitic 
cancer, sister with HIV and breast cancer, brother died at ___ of 
tuberculosis, brother with drug abuse and bad kidneys.  
-sister: breast cancer
-sister: pancreatic cancer
-mother: gastric cancer
-grand father: gastric cancer
-Father: lung cancer, CAD
 
 
Physical Exam:
Admission exam:
Vitals- 97.9, 147/74, 81, 18, 96% on 2L
General- Pleasant middle aged ___ woman breathing 
comfortably in full sentences. Alert, oriented, no acute 
distress.  
HEENT- Sclera anicteric, MMM, PERRL, EOMI, oropharynx clear  
Neck- supple, JVP not elevated 
Lungs- diffuse posterior wheezing with poor air movement at the 
apices but good air movement at the bases. No crackles or 
rhonchi.
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- CNs2-12 intact, motor function grossly normal

Discharge exam:
VS: 98.8, 120/77, 72, 18, 100% on 2L
General- Pleasant middle aged ___ woman breathing 
comfortably in full sentences. Alert, oriented, no acute 
distress.  
HEENT- Sclera anicteric, MMM, PERRL, EOMI, oropharynx clear  
Neck- supple, JVP not elevated 
Lungs- CTAB. No wheezes, crackles, or rhonchi.
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
Admission labs:

___ 02:00PM BLOOD WBC-6.0 RBC-3.76* Hgb-11.7* Hct-35.5* 
MCV-94 MCH-31.1 MCHC-33.0 RDW-14.7 Plt ___
___ 02:00PM BLOOD Neuts-76.4* Lymphs-17.0* Monos-2.9 
Eos-3.3 Baso-0.3
___ 02:00PM BLOOD Glucose-147* UreaN-15 Creat-0.7 Na-141 
K-3.1* Cl-102 HCO3-30 AnGap-12
___ 07:00AM BLOOD Calcium-10.2 Phos-3.4 Mg-2.0

Discharge labs:

___ 07:10AM BLOOD WBC-8.9 RBC-3.94* Hgb-11.9* Hct-36.7 
MCV-93 MCH-30.2 MCHC-32.4 RDW-14.4 Plt ___
___ 07:10AM BLOOD Glucose-89 UreaN-18 Creat-0.8 Na-144 
K-3.8 Cl-104 HCO3-28 AnGap-16
___ 07:10AM BLOOD Calcium-9.9 Phos-3.1 Mg-2.2

Pertinent micro:

Blood cultures pending x2

Pertinent imaging:

CXR: In comparison with study of ___, there is little change and 
no
evidence of acute cardiopulmonary disease.  There is a streak of 
fibrosis or
atelectasis again in the left mid zone.  Otherwise, no 
pneumonia, vascular
congestion, or pleural effusion.
 
Brief Hospital Course:
___ with history of COPD, HTN, depression, fibromyalgia with 
recent hospitalization for COPD flare who presents with acute 
SOB and wheezing on exam consistent with recurrent COPD flare.

# COPD with acute exacerbation: She appeared euvolemic with no 
suspected CHF, normal TTE in ___. Positive URI symptoms 
likely triggered flare. Of note, pt was supposed to follow up 
with pulmonology for PFTs but had to reschedule. She was started 
on a prednisone taper and a 3 day course of levaquin. Her 
symptoms improved dramatically. She was discharged on flovent 
instead of budesonide. Her home COPD medications were otherwise 
unchanged. 

# Hypokalemia: Etiology likely secondary to diuretic and/or 
frequent administration of albuterol. She normally takes 20meq 
KCl daily at home. HCTZ was held, and K improved. Blood 
pressures remained well controlled. Recommend uptitrating 
lisinopril as needed. 

Chronic issues:
# Anemia: Hct at baseline. History of normal iron studies. 
# HTN: held HCTZ and continued lisinopril as above.
# Fibromyalgia: continued home gabapentin and ibuprofen
# Depression: continued home zoloft. SW consult.
# PACT patient: PACT aware of admission, following.

Transitional issues:
# HCTZ discontinued; can uptitrate lisinopril as needed.
# Budesonide d/c'd and flovent started
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
2. Gabapentin 800 mg PO TID 
3. Gabapentin 400 mg PO HS 
4. Hydrochlorothiazide 25 mg PO DAILY 
hold for sbp <100 
5. Ibuprofen 800 mg PO Q8H:PRN pain 
6. Lisinopril 5 mg PO DAILY 
7. Pravastatin 80 mg PO DAILY 
8. Sertraline 200 mg PO DAILY 
9. Montelukast Sodium 10 mg PO DAILY 
10. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheezing 
11. Budesonide Nasal Inhaler *NF* 90 mcg Other BID 
12. Tiotropium Bromide 1 CAP IH DAILY 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
2. Gabapentin 800 mg PO TID 
3. Gabapentin 400 mg PO HS 
4. Ibuprofen 800 mg PO Q8H:PRN pain 
5. Lisinopril 5 mg PO DAILY 
6. Montelukast Sodium 10 mg PO DAILY 
7. Pravastatin 80 mg PO DAILY 
8. Sertraline 200 mg PO DAILY 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Fluticasone Propionate 110mcg 2 PUFF IH BID 
11. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheezing 
12. PredniSONE 60 mg PO  once a day Duration: 1  Days  
13. PredniSONE 40 mg PO  once a day Duration: 3 Days  Start: 
After 60 mg tapered dose. 
14. PredniSONE 30 mg PO once a day Duration: 3 Days  Start: 
After 40 mg tapered dose. 
15. PredniSONE 20 mg PO  once a day Duration: 3 Days  Start: 
After 30 mg tapered dose. 
16. PredniSONE 10 mg PO once a day Duration: 3 Days  Start: 
After 20 mg tapered dose. 
17. Fluconazole 150 mg PO ONCE Duration: 1 Doses  
RX *fluconazole 150 mg 1 tablet(s) by mouth once Disp #*2 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic obstructive pulmonary disease
Upper respiratory tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to ___ for shortness of breath likely 
related to an exacerbation of your COPD. ___ were started on 
antibiotics and a prednisone taper with nebulizers to help ___ 
breathe. Your symptoms improved notably, and we now feel ___ are 
safe to leave the hospital.

We made the following changes to your medications:
START prednisone 10mg 3 tabs x3 days, 3x 3 days, 2 x 3 days , 1 
x 3 days (this is waiting at your pharmacy)
START fluconazole 125mg once if ___ begin having symptoms of 
yeast infection 
START flovent (this is waiting at your pharmacy)
STOP HCTZ
STOP budesonide
 
Followup Instructions:
___